US06277861B1
(±) N-(1,2-Dimethyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-4-ethoxy-2-methoxybenzamide, hydrochloride
The title compound was prepared in a similar fashion to Example 1 from 5-amino-1,2-dimethyl-1,2,3,4-tetrahydroisoquinoline and 5-chloro-4-ethoxy-2-methoxybenzoic acid. The crude product was recrystallised from methanol and ethyl acetate to afford a pale brown solid (319 mg).

reactant | 5-amino-1,2-dimethyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(C(C2=CC=C1)C)C | C11H16N2
reactant | 5-chloro-4-ethoxy-2-methoxybenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)OC)OCC | C10H11ClO4
product | (±) N-(1,2-Dimethyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-4-ethoxy-2-methoxybenzamide, hydrochloride | Cl.CC1N(CCC2=C(C=CC=C12)NC(C1=C(C=C(C(=C1)Cl)OCC)OC)=O)C | InChI=1S/C21H25ClN2O3.ClH/c1-5-27-20-12-19(26-4)16(11-17(20)22)21(25)23-18-8-6-7-14-13(2)24(3)10-9-15(14)18;/h6-8,11-13H,5,9-10H2,1-4H3,(H,23,25);1H
